US08258182B2
Compound 17: 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-methoxypropyl]phenoxy]-2-methylpropanoic acid
This compound was prepared following the general procedure E, using 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-hydroxy-propyl]phenoxy]-2-methylpropanoic acid at reflux in a 2/3:1/3 ethanol/water mixture for 16 hours;

reactant | 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-hydroxy-propyl]phenoxy]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C(=CC(=C1)CCC(O)C1=CC=C(C=C1)SC)C | C22H28O4S
reactant | ethanol water | C(C)O.O
product | 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-methoxypropyl]phenoxy]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C(=CC(=C1)CCC(OC)C1=CC=C(C=C1)SC)C | C23H30O4S
